US07737149B2
4-(2-Aminopropyl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]benzamide
A solution of NaHMDS in THF (1 M, 0.86 ml, 0.86 mmol, 1.5 eq) was added dropwise at ambient temperature to a mixture of tert-butyl-5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]pyrazole-1-carboxylate (200 mg, 0.58 mmol, 1 eq) and methyl 4-(2-aminopropyl)benzoate (133 mg, 0.69 mmol, 1.2 eq) in THF (1 ml). The reaction mixture was stirred at ambient temperature for 2 h. It was then concentrated and the crude product was purified by reverse-phase prep. HPLC (basic) using a gradient of acetonitrile in water containing 1% ammonium hydroxide solution. The clean fractions were taken and evaporated to afford the title compound as a pale yellow gum (10 mg, 4% yield); 1H NMR (399.902 MHz, DMSO) δ 0.89 (3H, d), 2.53-2.47 (2H, m), 2.80 (4H, s), 3.01-2.93 (1H, m), 3.65 (6H, s), 6.25-6.24 (1H, m), 6.34 (2H, d), 6.40 (1H, s), 7.21 (2H, d), 7.84 (2H, d), 10.47 (1H, br.s), 12.06 (1H, br.s). MS: m/z 409 (MH+)

reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl-5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]pyrazole-1-carboxylate | 0.58 mmol, 200 mg, 1 eq | C(C)(C)(C)OC(=O)N1N=C(C=C1N)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | methyl 4-(2-aminopropyl)benzoate | 0.69 mmol, 133 mg, 1.2 eq | NC(CC1=CC=C(C(=O)OC)C=C1)C | C11H15NO2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 0.86 mmol, 1 M, 0.86 ml, 1.5 eq | C1CCOC1 | C4H8O
product | 4-(2-Aminopropyl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]benzamide | 10 mg, 4% yield | NC(CC1=CC=C(C(=O)NC2=NNC(=C2)CCC2=CC(=CC(=C2)OC)OC)C=C1)C | C23H28N4O3
